* weak_varactor_nonlinearity_line
* Varactor-loaded NLTL 4->8->12 bench design track.
* role=control; source_only=True; direct_100=False; direct_150=False
.option method=gear maxord=2 reltol=2e-4 abstol=1e-12 vntol=1e-6 chgtol=1e-16 itl4=200
.model DVAR D(Is=1e-15 Rs=0.85 Cjo=1.12929002687e-11 Vj=0.75 M=0.5 Bv=18 Ibv=1e-06)
Vbias vb 0 DC 14
Vsrc src 0 SIN(0 2 50000000)
Rsrc src n0 50
Rload n48 0 50
Cfixed0 n0 0 2.92845095289e-11
Dvar0 n0 vb DVAR
Rbleed0 n0 0 200000
Rser1 n0 ns1 0.0233333333333
Lser1 ns1 n1 7.95774715459e-08
Cfixed1 n1 0 2.92845095289e-11
Dvar1 n1 vb DVAR
Rbleed1 n1 0 200000
Rser2 n1 ns2 0.0233333333333
Lser2 ns2 n2 7.95774715459e-08
Cfixed2 n2 0 2.92845095289e-11
Dvar2 n2 vb DVAR
Rbleed2 n2 0 200000
Rser3 n2 ns3 0.0233333333333
Lser3 ns3 n3 7.95774715459e-08
Cfixed3 n3 0 2.92845095289e-11
Dvar3 n3 vb DVAR
Rbleed3 n3 0 200000
Rser4 n3 ns4 0.0233333333333
Lser4 ns4 n4 7.95774715459e-08
Cfixed4 n4 0 2.92845095289e-11
Dvar4 n4 vb DVAR
Rbleed4 n4 0 200000
Rser5 n4 ns5 0.0233333333333
Lser5 ns5 n5 7.95774715459e-08
Cfixed5 n5 0 2.92845095289e-11
Dvar5 n5 vb DVAR
Rbleed5 n5 0 200000
Rser6 n5 ns6 0.0233333333333
Lser6 ns6 n6 7.95774715459e-08
Cfixed6 n6 0 2.92845095289e-11
Dvar6 n6 vb DVAR
Rbleed6 n6 0 200000
Rser7 n6 ns7 0.0233333333333
Lser7 ns7 n7 7.95774715459e-08
Cfixed7 n7 0 2.92845095289e-11
Dvar7 n7 vb DVAR
Rbleed7 n7 0 200000
Rser8 n7 ns8 0.0233333333333
Lser8 ns8 n8 7.95774715459e-08
Cfixed8 n8 0 2.92845095289e-11
Dvar8 n8 vb DVAR
Rbleed8 n8 0 200000
Rser9 n8 ns9 0.0233333333333
Lser9 ns9 n9 7.95774715459e-08
Cfixed9 n9 0 2.92845095289e-11
Dvar9 n9 vb DVAR
Rbleed9 n9 0 200000
Rser10 n9 ns10 0.0233333333333
Lser10 ns10 n10 7.95774715459e-08
Cfixed10 n10 0 2.92845095289e-11
Dvar10 n10 vb DVAR
Rbleed10 n10 0 200000
Rser11 n10 ns11 0.0233333333333
Lser11 ns11 n11 7.95774715459e-08
Cfixed11 n11 0 2.92845095289e-11
Dvar11 n11 vb DVAR
Rbleed11 n11 0 200000
Rser12 n11 ns12 0.0233333333333
Lser12 ns12 n12 7.95774715459e-08
Cfixed12 n12 0 2.92845095289e-11
Dvar12 n12 vb DVAR
Rbleed12 n12 0 200000
Rser13 n12 ns13 0.0233333333333
Lser13 ns13 n13 7.95774715459e-08
Cfixed13 n13 0 2.92845095289e-11
Dvar13 n13 vb DVAR
Rbleed13 n13 0 200000
Rser14 n13 ns14 0.0233333333333
Lser14 ns14 n14 7.95774715459e-08
Cfixed14 n14 0 2.92845095289e-11
Dvar14 n14 vb DVAR
Rbleed14 n14 0 200000
Rser15 n14 ns15 0.0233333333333
Lser15 ns15 n15 7.95774715459e-08
Cfixed15 n15 0 2.92845095289e-11
Dvar15 n15 vb DVAR
Rbleed15 n15 0 200000
Rser16 n15 ns16 0.0233333333333
Lser16 ns16 n16 7.95774715459e-08
Cfixed16 n16 0 2.92845095289e-11
Dvar16 n16 vb DVAR
Rbleed16 n16 0 200000
Rser17 n16 ns17 0.0233333333333
Lser17 ns17 n17 7.95774715459e-08
Cfixed17 n17 0 2.92845095289e-11
Dvar17 n17 vb DVAR
Rbleed17 n17 0 200000
Rser18 n17 ns18 0.0233333333333
Lser18 ns18 n18 7.95774715459e-08
Cfixed18 n18 0 2.92845095289e-11
Dvar18 n18 vb DVAR
Rbleed18 n18 0 200000
Rser19 n18 ns19 0.0233333333333
Lser19 ns19 n19 7.95774715459e-08
Cfixed19 n19 0 2.92845095289e-11
Dvar19 n19 vb DVAR
Rbleed19 n19 0 200000
Rser20 n19 ns20 0.0233333333333
Lser20 ns20 n20 7.95774715459e-08
Cfixed20 n20 0 2.92845095289e-11
Dvar20 n20 vb DVAR
Rbleed20 n20 0 200000
Rser21 n20 ns21 0.0233333333333
Lser21 ns21 n21 7.95774715459e-08
Cfixed21 n21 0 2.92845095289e-11
Dvar21 n21 vb DVAR
Rbleed21 n21 0 200000
Rser22 n21 ns22 0.0233333333333
Lser22 ns22 n22 7.95774715459e-08
Cfixed22 n22 0 2.92845095289e-11
Dvar22 n22 vb DVAR
Rbleed22 n22 0 200000
Rser23 n22 ns23 0.0233333333333
Lser23 ns23 n23 7.95774715459e-08
Cfixed23 n23 0 2.92845095289e-11
Dvar23 n23 vb DVAR
Rbleed23 n23 0 200000
Rser24 n23 ns24 0.0233333333333
Lser24 ns24 n24 7.95774715459e-08
Cfixed24 n24 0 2.92845095289e-11
Dvar24 n24 vb DVAR
Rbleed24 n24 0 200000
Rser25 n24 ns25 0.0233333333333
Lser25 ns25 n25 7.95774715459e-08
Cfixed25 n25 0 2.92845095289e-11
Dvar25 n25 vb DVAR
Rbleed25 n25 0 200000
Rser26 n25 ns26 0.0233333333333
Lser26 ns26 n26 7.95774715459e-08
Cfixed26 n26 0 2.92845095289e-11
Dvar26 n26 vb DVAR
Rbleed26 n26 0 200000
Rser27 n26 ns27 0.0233333333333
Lser27 ns27 n27 7.95774715459e-08
Cfixed27 n27 0 2.92845095289e-11
Dvar27 n27 vb DVAR
Rbleed27 n27 0 200000
Rser28 n27 ns28 0.0233333333333
Lser28 ns28 n28 7.95774715459e-08
Cfixed28 n28 0 2.92845095289e-11
Dvar28 n28 vb DVAR
Rbleed28 n28 0 200000
Rser29 n28 ns29 0.0233333333333
Lser29 ns29 n29 7.95774715459e-08
Cfixed29 n29 0 2.92845095289e-11
Dvar29 n29 vb DVAR
Rbleed29 n29 0 200000
Rser30 n29 ns30 0.0233333333333
Lser30 ns30 n30 7.95774715459e-08
Cfixed30 n30 0 2.92845095289e-11
Dvar30 n30 vb DVAR
Rbleed30 n30 0 200000
Rser31 n30 ns31 0.0233333333333
Lser31 ns31 n31 7.95774715459e-08
Cfixed31 n31 0 2.92845095289e-11
Dvar31 n31 vb DVAR
Rbleed31 n31 0 200000
Rser32 n31 ns32 0.0233333333333
Lser32 ns32 n32 7.95774715459e-08
Cfixed32 n32 0 2.92845095289e-11
Dvar32 n32 vb DVAR
Rbleed32 n32 0 200000
Rser33 n32 ns33 0.0233333333333
Lser33 ns33 n33 7.95774715459e-08
Cfixed33 n33 0 2.92845095289e-11
Dvar33 n33 vb DVAR
Rbleed33 n33 0 200000
Rser34 n33 ns34 0.0233333333333
Lser34 ns34 n34 7.95774715459e-08
Cfixed34 n34 0 2.92845095289e-11
Dvar34 n34 vb DVAR
Rbleed34 n34 0 200000
Rser35 n34 ns35 0.0233333333333
Lser35 ns35 n35 7.95774715459e-08
Cfixed35 n35 0 2.92845095289e-11
Dvar35 n35 vb DVAR
Rbleed35 n35 0 200000
Rser36 n35 ns36 0.0233333333333
Lser36 ns36 n36 7.95774715459e-08
Cfixed36 n36 0 2.92845095289e-11
Dvar36 n36 vb DVAR
Rbleed36 n36 0 200000
Rser37 n36 ns37 0.0233333333333
Lser37 ns37 n37 7.95774715459e-08
Cfixed37 n37 0 2.92845095289e-11
Dvar37 n37 vb DVAR
Rbleed37 n37 0 200000
Rser38 n37 ns38 0.0233333333333
Lser38 ns38 n38 7.95774715459e-08
Cfixed38 n38 0 2.92845095289e-11
Dvar38 n38 vb DVAR
Rbleed38 n38 0 200000
Rser39 n38 ns39 0.0233333333333
Lser39 ns39 n39 7.95774715459e-08
Cfixed39 n39 0 2.92845095289e-11
Dvar39 n39 vb DVAR
Rbleed39 n39 0 200000
Rser40 n39 ns40 0.0233333333333
Lser40 ns40 n40 7.95774715459e-08
Cfixed40 n40 0 2.92845095289e-11
Dvar40 n40 vb DVAR
Rbleed40 n40 0 200000
Rser41 n40 ns41 0.0233333333333
Lser41 ns41 n41 7.95774715459e-08
Cfixed41 n41 0 2.92845095289e-11
Dvar41 n41 vb DVAR
Rbleed41 n41 0 200000
Rser42 n41 ns42 0.0233333333333
Lser42 ns42 n42 7.95774715459e-08
Cfixed42 n42 0 2.92845095289e-11
Dvar42 n42 vb DVAR
Rbleed42 n42 0 200000
Rser43 n42 ns43 0.0233333333333
Lser43 ns43 n43 7.95774715459e-08
Cfixed43 n43 0 2.92845095289e-11
Dvar43 n43 vb DVAR
Rbleed43 n43 0 200000
Rser44 n43 ns44 0.0233333333333
Lser44 ns44 n44 7.95774715459e-08
Cfixed44 n44 0 2.92845095289e-11
Dvar44 n44 vb DVAR
Rbleed44 n44 0 200000
Rser45 n44 ns45 0.0233333333333
Lser45 ns45 n45 7.95774715459e-08
Cfixed45 n45 0 2.92845095289e-11
Dvar45 n45 vb DVAR
Rbleed45 n45 0 200000
Rser46 n45 ns46 0.0233333333333
Lser46 ns46 n46 7.95774715459e-08
Cfixed46 n46 0 2.92845095289e-11
Dvar46 n46 vb DVAR
Rbleed46 n46 0 200000
Rser47 n46 ns47 0.0233333333333
Lser47 ns47 n47 7.95774715459e-08
Cfixed47 n47 0 2.92845095289e-11
Dvar47 n47 vb DVAR
Rbleed47 n47 0 200000
Rser48 n47 ns48 0.0233333333333
Lser48 ns48 n48 7.95774715459e-08
Cfixed48 n48 0 2.92845095289e-11
Dvar48 n48 vb DVAR
Rbleed48 n48 0 200000
.control
set filetype=ascii
set wr_singlescale
set wr_vecnames
tran 5e-10 5.5e-07 0 2e-10
wrdata weak_varactor_nonlinearity_line_tran.csv time v(n0) v(n24) v(n48) i(Vsrc) i(Vbias)
.endc
.end
